US07119109B2
d) [3-(3-Cyano-6-trifluoromethylpyridin-2-yloxy)-4,4,4-trifluorobutyl]carbamic acid tert-butyl ester
A solution of 2-(3-azido-1-trifluoromethylpropoxy)-6-trifluoromethylnicotinonitrile (1.00 g, 2.95 mmol) in THF (6 mL) was treated with water (1.3 mL) and triphenylphosphine (0.774 g, 2.95 mmol) at ambient temperature and was stirred for 18 h. Di-t-butyldicarbonate (0.710 g, 3.25 mmol) was added. After 3 h, the mixture was concentrated under reduced pressure. The residue was diluted with water and extracted with diethyl ether. The combined organic extracts were washed (water, brine), dried, and evaporated to a brown oil. The crude material was purified by silica gel chromatography, eluting with 100% dichloromethane and 5% methanol/95% dichloromethane (v/v) to give the product as a solid (0.212 g, 17%).

reactant | 2-(3-azido-1-trifluoromethylpropoxy)-6-trifluoromethylnicotinonitrile | 2.95 mmol, 1.00 g | N(=[N+]=[N-])CCC(OC1=C(C#N)C=CC(=N1)C(F)(F)F)C(F)(F)F | C11H7F6N5O
reactant | water | 1.3 mL | O | H2O
reactant | triphenylphosphine | 2.95 mmol, 0.774 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Di-t-butyldicarbonate | 3.25 mmol, 0.710 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | [3-(3-Cyano-6-trifluoromethylpyridin-2-yloxy)-4,4,4-trifluorobutyl]carbamic acid tert-butyl ester | 0.212 g, 17% | C(C)(C)(C)OC(NCCC(C(F)(F)F)OC1=NC(=CC=C1C#N)C(F)(F)F)=O | C16H17F6N3O3
